US08865721B2
The crude 4-(N,N-diethylcarbamoyl)benzhydryl chloride (125 mmol) was dissolved in acetonitrile (300 mL). Sodium iodide (18.64 g, 125 mmol), diisopropylethylamine (32.65 mL, 187 mmol), and (+)-(2S,5R)-1-allyl-2,5-dimethylpiperazine (19.23 g, 125 mmol, prepared by the method described in Example 1 for (−)-(2R,5S)-1-allyl-2,5-dimethylpiperazine, but using di-p-toluoyl-L-tartaric acid as the resolving agent) were added. The mixture was stirred at reflux, under nitrogen, for 3 hours. The acetonitrile was removed under reduced pressure, the reaction mixture was poured into ethyl acetate (500 mL) and potassium carbonate solution (150 mL of a 2M aqueous solution), and shaken. The organic phase was separated, washed with water and brine, dried over solid potassium carbonate, and concentrated in vacuo to give 55.35 g (100% crude yield) of 4-((αR and αS)-α-((2R,S5)-4-allyl-2,5-dimethyl-1-piperazinyl)benzyl)-N,N-diethylbenzamide as a 1:1 mixture of isomers, epimeric at the benzhydryl carbon.

reactant | 4-(N,N-diethylcarbamoyl)benzhydryl chloride | 125 mmol | C(C)N(C(=O)C1=CC=C(C(C2=CC=CC=C2)Cl)C=C1)CC | C18H20ClNO
reactant | Sodium iodide | 125 mmol, 18.64 g | [I-].[Na+]
reactant | diisopropylethylamine | 187 mmol, 32.65 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (+)-(2S,5R)-1-allyl-2,5-dimethylpiperazine | C(C=C)N1[C@H](CN[C@@H](C1)C)C | C9H18N2
reactant | (−)-(2R,5S)-1-allyl-2,5-dimethylpiperazine | C(C=C)N1[C@@H](CN[C@H](C1)C)C | C9H18N2
reactant | di-p-toluoyl-L-tartaric acid | C1(=CC=C(C=C1)C(=O)[C@]([C@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C | C20H18O8
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | N,N-diethylbenzamide | C(C)N(C(C1=CC=CC=C1)=O)CC | C11H15NO
